* Schematics Netlist *



L_L1         $N_0001 $N_0002  31mH  
C_C1         $N_0003 $N_0001  5.6n  
R_R1         $N_0002 $N_0004  110  
V_V1         $N_0003 0  
+PULSE 0 1 0 0 0 20u 200u
R_R2         $N_0004 0  10k  
